US09290485B2
c) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(4-((2,5-dioxopyrrolidin-1-yl)methyl)benzyl)-1H-pyrazole-4-carboxamide
A mixture of {5-[({1-[4-(2,5-Dioxo-pyrrolidin-1-ylmethyl)-benzyl]-1H-pyrazole-4-carbonyl}-amino)-methyl]-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester (48 mg, 0.08 mmol), 1 mL TFA and 2 mL DCM was stirred of room temperature for 2 h. The mixture was evaporated in vacuo and the residue was purified by preparative HPLC (Macherey-Nagel Nucleosil 250×40 mm, 5 to 100% ACN and 0.1% TFA, flow 40ml/min). The product containing fractions were lyophilised, then dissolved in 1 mL MeOH and the resulting mixture was filtered over a MeOH flushed PL-HCO3 MP-resin column. The column was washed with MeOH, the solvent was removed and the product was dissolved in water/ACN and lyophilised to yield the title compound. 1H-NMR (DMSO-d6, 400 MHz) 88.25 (s, 1H), 7.91 (t, 1H), 7.87 (s, 1H), 7.24 (d, 2H), 7.20 (d, 2H), 6.13 (s, 1H), 5.70 (bs, 2H), 5.28 (s, 2H), 4.52 (d, 2H), 2.67 (s, 4H), 2.29 (s, 3H), 2.15 (s, 3H); LCMS (method A) RtA=0.439 min; [M+H]+=447.1.

reactant | {5-[({1-[4-(2,5-Dioxo-pyrrolidin-1-ylmethyl)-benzyl]-1H-pyrazole-4-carbonyl}-amino)-methyl]-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.08 mmol, 48 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CN1C(CCC1=O)=O)C)=O | C29H34N6O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(4-((2,5-dioxopyrrolidin-1-yl)methyl)benzyl)-1H-pyrazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CN1C(CCC1=O)=O)C | C24H26N6O3
